US06696473B2
B. Preparation of N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}-2-methoxyacetamide
In a manner similar to Example 30, intermediate 4′-ethylamino-2-methoxy-3′-nitroacetanilide was hydrogenated and then condensed with 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate to afford the title compound. 1H-NMR (CDCl3): δ 7.99 (1H, s), 7.39-7.44 (3H, m), 7.17-7.28 (5H, m), 7.05-7.11 (2H, m), 694 (1H, d), 6.50 (1H, d), 5.08 (2H, s), 3.92 (2H, s), 3.66 (3H, s), 3.41 (3H, s), 2.91 (2H, q), 0.96 (3H, t); MS(ESI): 560 (MH+).

reactant | 4′-ethylamino-2-methoxy-3′-nitroacetanilide | C(C)NC1=C(C=C(NC(COC)=O)C=C1)[N+](=O)[O-] | C11H15N3O4
reactant | 3-benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-2-methylthio-4-oxo-2-thiazolium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C1=CC=CC=C1)N1[CH2+](SC(C1=O)=C1SC2=C(N1C)C=CC=C2)SC
product | N-{3-[3-Benzyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]-4-ethylaminophenyl}-2-methoxyacetamide | C(C1=CC=CC=C1)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C=CC2NCC)NC(COC)=O | C29H29N5O3S2
